US07138075B2
4,6-Bis(trimethylsilyl)thianthrene-5-oxide (11)
To a stirred solution of thianthrene-5-oxide (9.40 g, 40.5 mmole) in THF (200 mL), lithium diisopropylamide (prepared by the addition of n-butyl lithium (1.6 M, 64.0 mL, 101 mmole) to a solution of diisopropylamine (14.2 mL, 101 mmole) at −78° C.) in THF (100 mL) was added in portion at −78° C. under inert atmosphere. The reaction mixture was stirred at this temperature for 4 hrs and became dark green. Chlorotrimethylsilane (12.8 mL, 101 mmole) was then added to the cold solution. The solution was then turned into yellowish brown, warmed back to room temperature, and stirred overnight. Water (100 mL) was then added to the reaction mixture to quench the excess base. The solvent was removed and the crude mixture was redissolved in ether. The aqueous layer was extracted by ether and the organic layers were combined. It was further washed by water, brine, and dried with MgSO4. The solvent was then removed in vacuo. The crude product was further purified by column chromatography (hexane/CH2Cl2 4/1, and then 2/1) to afford light yellow crystals (5.50 g, 36%). mp 210˜211° C. (lit. 213˜214° C.). 1H NMR (300 MHz, CDCl3) δ: 7.69 (dd, 2H, J=7.8, 1.5 Hz), 7.60 (dd, 2H, J=7.8, 1.5 Hz), 7.41 (dd, 2H, J=7.8, 7.8 Hz), 0.57 (s, 18H). 13C NMR (125 MHz, CDCl3) δ: 144.1, 140.9, 134.0, 133.8, 129.9, 129.3, 1.55. HR-MS (ESI): calcd. for C18H24OS2Si2+Na 399.0699 [(M+Na)+]. found 399.0690.

reactant | thianthrene-5-oxide | 40.5 mmole, 9.40 g | C1=CC=CC=2S(C3=CC=CC=C3SC12)=O | C12H8OS2
reactant | n-butyl lithium | 101 mmole, 1.6 M, 64.0 mL | C(CCC)[Li]
reactant | diisopropylamine | 101 mmole, 14.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | Chlorotrimethylsilane | 101 mmole, 12.8 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | 4,6-Bis(trimethylsilyl)thianthrene-5-oxide | 5.50 g, 36% | C[Si](C1=CC=CC=2SC3=CC=CC(=C3S(C12)=O)[Si](C)(C)C)(C)C | C18H24OS2Si2
